US03971784
1.3 g (0.01 mole) of 5-fluorouracil was suspended in a mixed solution of 40 ml. of dioxane and 2 ml. of pyridine. 1.7 g (0.01 mole) of p-methoxybenzoyl chloride in 5 ml. of dioxane was added to the suspension and stirred at 80°C. for 5 hours. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure and a resinous residue was obtained. The residue was dissolved in ethanol and filtered. After cooling to 0°C., the resulting crystals were filtered and dried to give 1.30 g (49.2% yield) of 5-fluoro-1-(p-methoxybenzoyl)uracil. The product was recrystallized from dioxane-ethanol and white needles melting at 200°-201°C. were obtained. The results of an elementary analysis thereof were well in agreement with the calculated value as follows:

reactant | 5-fluorouracil | 0.01 mole, 1.3 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-methoxybenzoyl chloride | 0.01 mole, 1.7 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | ethanol | C(C)O | C2H6O
product | 5-fluoro-1-(p-methoxybenzoyl)uracil | 1.30 g, 49.2% yield | FC=1C(NC(N(C1)C(C1=CC=C(C=C1)OC)=O)=O)=O | C12H9FN2O4
